US08378142B2
Preparation of N-benzyl-O-methyl-D-serinamide
To a solution of Example 3 product (i.e., N-benzyl-O-methyl-N2-trityl-D-serinamide, 50 g) in absolute ethanol (100 ml), acetic acid (1.25 mole eq.) was added at room temperature. This solution was stirred for 30 minutes at room temperature and then the solvent was completely recovered under vacuum at 40° C. Water (250 ml) was added to it at room temperature and the aqueous layer was neutralized with aqueous ammonia (20 ml). The aqueous layer was extracted with toluene (2×200 ml). The toluene was then completely recovered under vacuum at 50° C. to 55° C. to get an oil. Yield=18 gm.

reactant | N-benzyl-O-methyl-N2-trityl-D-serinamide | C(C1=CC=CC=C1)NC([C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COC)=O | C30H30N2O2
reactant | acetic acid | 1.25 mole | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-benzyl-O-methyl-D-serinamide | C(C1=CC=CC=C1)NC([C@H](N)COC)=O | C11H16N2O2
